US07750003B2
4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(pyridin-4-ylsulfonylmethyl)pyrimidin-2-yl]aniline
trans-Dichlorobis(triphenylphosphine)palladium (II) (0.039 g, 0.06 mmol) was added to a mixture of 2-chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-(pyridin-4-ylsulfonylmethyl)pyrimidine (0.411 g, 1.11 mmol), 4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (0.366 g, 1.67 mmol) and sodium carbonate (0.233 mL, 5.56 mmol) in 18% DMF in a mixture of 7:3:2 DME:water:ethanol (100 mL) at RT under nitrogen. The resulting solution was stirred at 90° C. for 5 hours. The reaction was cooled and diluted with ethyl acetate and water. The reaction mixture was extracted with ethyl acetate and the combined organics dried (MgSO4), filtered and evaporated. The crude product was chromatographed on silica, eluting with 0-5% methanol in DCM, to give the desired material as a white solid (0.453 g).

reactant | 2-chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-(pyridin-4-ylsulfonylmethyl)pyrimidine | 1.11 mmol, 0.411 g | ClC1=NC(=CC(=N1)N1[C@H](COCC1)C)CS(=O)(=O)C1=CC=NC=C1 | C15H17ClN4O3S
reactant | 4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 1.67 mmol, 0.366 g | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | sodium carbonate | 5.56 mmol, 0.233 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | DME | COCCOC | C4H10O2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | trans-Dichlorobis(triphenylphosphine)palladium | 0.06 mmol, 0.039 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(pyridin-4-ylsulfonylmethyl)pyrimidin-2-yl]aniline | 0.453 g | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)CS(=O)(=O)C1=CC=NC=C1)C1=CC=C(N)C=C1 | C21H23N5O3S
